US09216972B2
A long sealed tube was charged with solid tert-butyl 3-oxoazetidine-1-carboxylate (2.500 g, 14.60 mmol), ammonium carbonate (9.82 g, 102 mmol), potassium cyanide (1.902 g, 29.2 mmol), and formamide (20 mL). The vessel was sealed and shaken back and forth until all of the solids were wetted and then placed in a 80° C. oil bath overnight behind a blast shield. The reaction vessel was cooled in an ice bath for 15 min and the contents of the vessel were carefully transferred to a separating funnel using ethyl acetate and saturated aq. sodium chloride to which ˜3 g of ammonium chloride had been added. The aqueous layer (200 mL) was extracted with ethyl acetate, dried over magnesium sulfate, filtered, concentrated to ˜10 mL of a yellow homogeneous liquid. The crude material was chromatographed on a 80 g SiO2 cartridge using pure ethyl acetate. The desired fractions were collected and concentrated in vacuo to give tert-butyl 6,8-dioxo-2,5,7-triazaspiro[3.4]octane-2-carboxylate (1.54 g, 44%) as a white solid. MS (M−1)=240. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.8 (1H, s), 8.48 (1H, s), 4.05 (2H, d), 3.39 (2H, d), 1.06 (9H, s).

reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 14.60 mmol, 2.500 g | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
reactant | ammonium carbonate | 102 mmol, 9.82 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 29.2 mmol, 1.902 g | [C-]#N.[K+]
reactant | formamide | 20 mL | C(=O)N | CH3NO
reactant | sodium chloride | [Cl-].[Na+]
reactant | ammonium chloride | ˜3 g | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 6,8-dioxo-2,5,7-triazaspiro[3.4]octane-2-carboxylate | 1.54 g, 44% | O=C1NC2(CN(C2)C(=O)OC(C)(C)C)C(N1)=O | C10H15N3O4
